US20010025042A1
Preparation of (S)-4-(5,7-dibromo-2,3-dihydro-1H-indol-1-yl)-1-[1-(methoxymethyl)-3-methoxypropyl]-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine
Part J:(S)-4-(5,7-dibromo-2,3-dihydro-1H-indol-1-yl)-1-[1- (methoxymethyl)-3-methoxypropyl]-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine (S)-4-chloro-1-(1-methoxymethyl-3-methoxypropyl)-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine (0.72 g, 2.54 mmol) and 5,7-dibromoindoline (0.72 g, 2.60 mmol) were dissolved in anhydrous THF (6 mL) and cooled in an ice bath. To that a 1 M solution of NaHMDS in THF (3.0 mL, 3.0 mmol) was added and the reaction was stirred for 20 min, allowed to warm to 25° C. and stirred for 3 h. Then water (30 mL) was added and the mixture was extracted twice with EtOAc (80 and 40 mL). The combined organic extracts was washed with brine (30 mL) dried (MgSO4) and stripped in vacuo. The residue was chromatographed on silica gel using 40% EtOAc/hexanes as eluent to give the product (1.14 g, 85% yield).

reactant | (S)-4-(5,7-dibromo-2,3-dihydro-1H-indol-1-yl)-1-[1- (methoxymethyl)-3-methoxypropyl]-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine (S)-4-chloro-1-(1-methoxymethyl-3-methoxypropyl)-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine | 2.54 mmol, 0.72 g | ClC1=NC(=CC2=C1N=NN2[C@@H](CCOC)COC)C.BrC=2C=C1CCN(C1=C(C2)Br)C2=NC(=CC1=C2N=NN1[C@@H](CCOC)COC)C
reactant | 5,7-dibromoindoline | 2.60 mmol, 0.72 g | BrC=1C=C2CCNC2=C(C1)Br | C8H7Br2N
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | water | 30 mL | O | H2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 3.0 mmol, 3.0 mL | C1CCOC1 | C4H8O
product | (S)-4-(5,7-dibromo-2,3-dihydro-1H-indol-1-yl)-1-[1-(methoxymethyl)-3-methoxypropyl]-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine | 1.14 g, 85% yield | BrC=1C=C2CCN(C2=C(C1)Br)C1=NC(=CC2=C1N=NN2[C@@H](CCOC)COC)C | C20H23Br2N5O2
